US09382188B2
step 3) ethyl 4-cyano-3-(3-((methoxymethoxy)methyl)phenyl)-4-methylpentanoate
Under a nitrogen atmosphere, a solution (1.6 M, 1.50 mL) of n-butyllithium in hexane was added to a solution of diisopropylamine (336 μL) in THF (2 mL) at −78° C., to the reaction mixture was added isobutyronitrile (227 μL) at −78° C., and the mixture was stirred for 5 min. To the reaction mixture was added (E)-ethyl 3-(3-((methoxymethoxy)methyl)phenyl)acrylate (250 mg) at −78° C., and the mixture was stirred at room temperature for 20 min. Water was added to the reaction mixture at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent of the reaction mixture was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (210 mg) as a colorless oil.

reactant | n-butyllithium | 1.6 M, 1.50 mL | C(CCC)[Li]
reactant | diisopropylamine | 336 μL | C(C)(C)NC(C)C | C6H15N
reactant | isobutyronitrile | 227 μL | C(C(C)C)#N | C4H7N
reactant | (E)-ethyl 3-(3-((methoxymethoxy)methyl)phenyl)acrylate | 250 mg | COCOCC=1C=C(C=CC1)/C=C/C(=O)OCC | C14H18O4
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | ethyl 4-cyano-3-(3-((methoxymethoxy)methyl)phenyl)-4-methylpentanoate | 210 mg | C(#N)C(C(CC(=O)OCC)C1=CC(=CC=C1)COCOC)(C)C | C18H25NO4
